US03959309
The 3-benzoyloxy-9-[2-(dimethylamino)ethyl]-1,2,3,4-tetrahydrocarbazole was prepared by following an alkylation procedure similar to that described in Example 11 and using 13.1 g. of 3-benzoyloxy-1,2,3,4-tetrahydrocarbazole and 1.93 g. of sodium hydride (50% in mineral oil) in 150 ml. of dimethylformamide, and 4.9 g. of (dimethylamino)ethyl chloride in 10 ml. of benzene. An ethereal solution of the crude product was filtered through alumina and the concentrated ethereal eluate was treated with ethereal hydrogen chloride to give after recrystallizaton from isopropyl alcohol - ether 5.6 g. of 3-benzoyloxy-9-[2-(dimethylaino)ethyl]-1,2,3,4-tetrahydrocarbazole hydrochloride, m.p. 222°-225°C.

reactant | 3-benzoyloxy-1,2,3,4-tetrahydrocarbazole | C(C1=CC=CC=C1)(=O)OC1CCC=2NC3=CC=CC=C3C2C1 | C19H17NO2
reactant | sodium hydride | [H-].[Na+]
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | (dimethylamino)ethyl chloride | CN(C)CCCl | C4H10ClN
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 3-benzoyloxy-9-[2-(dimethylamino)ethyl]-1,2,3,4-tetrahydrocarbazole | C(C1=CC=CC=C1)(=O)OC1CCC=2N(C3=CC=CC=C3C2C1)CCN(C)C | C23H26N2O2
